* bias chain: vbp, vbn, I_dac, stage currents vs code
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt_mismatch
.option temp=27
.option seed=3119
.include /work/analog/out/blocks/blocks.spice
Vdd VPWR 0 1.2
Vsw sw 0 dc 0
Bc0 code[0] 0 V = 1.2*(floor(V(sw)/1) - 2*floor(V(sw)/2))
Bc1 code[1] 0 V = 1.2*(floor(V(sw)/2) - 2*floor(V(sw)/4))
Bc2 code[2] 0 V = 1.2*(floor(V(sw)/4) - 2*floor(V(sw)/8))
Bc3 code[3] 0 V = 1.2*(floor(V(sw)/8) - 2*floor(V(sw)/16))
Bc4 code[4] 0 V = 1.2*(floor(V(sw)/16) - 2*floor(V(sw)/32))
Bc5 code[5] 0 V = 1.2*(floor(V(sw)/32) - 2*floor(V(sw)/64))
Bc6 code[6] 0 V = 1.2*(floor(V(sw)/64) - 2*floor(V(sw)/128))
Bc7 code[7] 0 V = 1.2*(floor(V(sw)/128) - 2*floor(V(sw)/256))
Xdac code[0] code[1] code[2] code[3] code[4] code[5] code[6] code[7] vbp VPWR 0 csro_dac
Vmpd VPWR vpd 0
XMPD vbp vbp vpd VPWR sg13_lv_pmos w=48u l=0.5u ng=24 mm_ok=1
Vmpm VPWR vpm 0
XMPM vbn vbp vpm VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
XMND vbn vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
XSP0 sp0 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP0 sp0 0 0.6
XSN0 sn0 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN0 sn0 0 0.6
XSP1 sp1 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP1 sp1 0 0.6
XSN1 sn1 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN1 sn1 0 0.6
XSP2 sp2 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP2 sp2 0 0.6
XSN2 sn2 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN2 sn2 0 0.6
XSP3 sp3 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP3 sp3 0 0.6
XSN3 sn3 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN3 sn3 0 0.6
XSP4 sp4 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP4 sp4 0 0.6
XSN4 sn4 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN4 sn4 0 0.6
XSP5 sp5 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP5 sp5 0 0.6
XSN5 sn5 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN5 sn5 0 0.6
XSP6 sp6 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP6 sp6 0 0.6
XSN6 sn6 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN6 sn6 0 0.6
XSP7 sp7 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP7 sp7 0 0.6
XSN7 sn7 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN7 sn7 0 0.6
XSP8 sp8 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP8 sp8 0 0.6
XSN8 sn8 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN8 sn8 0 0.6
XSP9 sp9 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP9 sp9 0 0.6
XSN9 sn9 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN9 sn9 0 0.6
XSP10 sp10 vbp VPWR VPWR sg13_lv_pmos w=1u l=0.5u ng=1 mm_ok=1
VSP10 sp10 0 0.6
XSN10 sn10 vbn 0 0 sg13_lv_nmos w=0.5u l=0.5u ng=1 mm_ok=1
VSN10 sn10 0 0.6
.control
dc Vsw 0 255 1
wrdata bias.txt v(vbp) v(vbn) i(Vmpd) i(Vmpm) i(VSP0) i(VSP1) i(VSP2) i(VSP3) i(VSP4) i(VSP5) i(VSP6) i(VSP7) i(VSP8) i(VSP9) i(VSP10) i(VSN0) i(VSN1) i(VSN2) i(VSN3) i(VSN4) i(VSN5) i(VSN6) i(VSN7) i(VSN8) i(VSN9) i(VSN10)
.endc
.end
